US08222416B2
A mixture of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(3-methoxy-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridine (302 mg, 0.7 mmol) and 10% palladium on activated carbon (80 mg) in methanol (250 mL) was heated at 50° C. under hydrogen (50 psi) for 8 h. The mixture was cooled to room temperature. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-(3-methoxy-propyl)-1H-pyrrolo[2,3-b]pyridine (100 mg, 32.5%) as a colorless oil: LC/MS m/e calcd for C25H32N2O3S [M+H]+ 441.61, observed 441.1; 1H NMR (400 MHz, CD3OD) δ ppm 8.25 (s, 1H), 8.10 (br. s., 1H), 7.90-7.95 (m, J=8.1 Hz, 2H), 7.60-7.65 (m, J=8.3 Hz, 2H), 6.65 (s, 1H), 4.39 (t, J=7.8 Hz, 1H), 3.43 (t, J=6.2 Hz, 2H), 3.35 (s, 3H), 3.11 (s, 3H), 2.88 (t, J=7.6 Hz, 2H), 2.26-2.34 (m, 1H), 2.13-2.22 (m, 1H), 1.92-1.99 (m, 2H), 1.63-1.89 (m, 5H), 1.46-1.58 (m, 2H), 1.19-1.34 (m, 2H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(3-methoxy-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridine | 0.7 mmol, 302 mg | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)C#CCOC)N1 | C25H26N2O3S
catalyst | palladium on activated carbon | 80 mg | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-(3-methoxy-propyl)-1H-pyrrolo[2,3-b]pyridine | 100 mg, 32.5% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CCCOC)N1 | C25H32N2O3S
